* Schematics Netlist *



C_C1         $N_0001 $N_0002  0.05  
L_L1         $N_0002 0  10  
R_R1         $N_0003 $N_0001  30  
V_V1         $N_0003 0  
+SIN 0 1 0.1591 0 0 0
