* Schematics Netlist *



R_R1         $N_0002 $N_0001  12  
L_L1         $N_0001 0  2H IC=50mA 
V_V1         $N_0002 0  
+SIN 0 5 0.000000000001 0 0 0
